US09085534B2
Preparation 77A: 5-phenoxy-3,4-dihydronaphthalen-1(2H)-one
To a solution of 5-hydroxy-1-tetralone (4.5 g, 28.0 mmol) and iodobenzene (24.0 g, 168.0 mmol) in DMF (50 mL) was added NaH (1.2 g, 30.0 mmol) at room temperature. The mixture was heated to 50° C. until the solid was dissolved and then cooled. To the mixture was added CuCl (2.8 g, 28.0 mmol); followed by tris(dioxa 3,6-heptyl)amine (2.7 g, 8.4 mmol). The mixture was heated at 145° C. overnight. The reaction was diluted with water, extracted with EtOAc, washed with brine, dried (Na2SO4), and concentrated. Purification by silica gel chromatography (20:1 PE/EtOAc) gave 1.2 g (18%) of the title compound as a yellow oil. [M+H] calc'd for C16H14O2, 239; found 239.

reactant | 5-hydroxy-1-tetralone | 28.0 mmol, 4.5 g | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | iodobenzene | 168.0 mmol, 24.0 g | IC1=CC=CC=C1 | C6H5I
reactant | NaH | 30.0 mmol, 1.2 g | [H-].[Na+]
reactant | tris(dioxa 3,6-heptyl)amine | 8.4 mmol, 2.7 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | CuCl | 28.0 mmol, 2.8 g | Cl[Cu]
product | 5-phenoxy-3,4-dihydronaphthalen-1(2H)-one | 1.2 g, 18% | O(C1=CC=CC=C1)C1=C2CCCC(C2=CC=C1)=O | C16H14O2
